Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal Pain 

 
Major Surgical or Invasive Procedure:
Sigmoidectomy with Colostomy creation
Sigmoidoscopy with decompression
Bronchoscopy

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of hemorrhagic 
CVA ___ R MCA anuerysm s/p R craniotomy and clipping (___) c/b 
L hemiplegia, s/p trach and PEG on seizure prophylaxis, HTN, 
HLD, Hx of DVT/PE s/p IVC filter, s/p recent TAH-BSO for 
symptomatic fibroid uterus with discharge from ___ on ___, 
who presented to ___ abdominal pain. Had 
been complained of LUQ since the surgery with constipation, no 
fever, chils, tolerating tube feeds, continued to have flatus. 
Pain acutely worsened prior to presentation to OSH, KUB there 
c/f sigmoid distension and c/f sigmoid volvulus. Pt transferred 
to ___ for further care.

AT ___, repeat KUB notable for persistent massive gaseous 
distention of the sigmoid colon, concerning for obstruction. She 
had a indeterminate UA (pos nit, neg leuk, 3WBCs) via straight 
cath, and was given Ceftriaxone. Seen in ED by ACS surgery, who 
felt that given her recent abdominal surgery, would like to hold 
off repeat surgery. Patient underwent flexible sigmoidoscopy for 
decompression. Although procdure limited by stool, able to 
release copious gas.  Post-procedure KUB was taken and she came 
to the floor which looked mildly improved.  

Overnight, patient noted to by tachycardic to 130s, no EKG 
changes. Patient originally on RA, found to be desaturated to 
___ % RA, increased to 70% on FiO2. ABG 7.41/45/59 on 35% 
trach mask. CXR clear. CTA prelim without e/o PE, but with 
diffuse GGO throughout both lung fields.

On arrival, patient satting: 98.1  104 121/68  36  81% on 35% 
FiO2
Patient initially obtunded and lethargic, unresponsive to voice 
or sternal rub. Shut eyes closely when attempting assessment. Pt 
placed on 5L NC and 13L trach collar with improvement in sats to 
mid ___.  
Mental status improved with improvement of oxygenation. Patient 
denied aspiration event. Denied fever, chills, night sweats. 
States that abdominal pain has improvement. C/o R knee pain, 
states mildly sore. Denies dysuria, frequency or urgency. 

Pt placed on CMV 100% 350 PEEP 5 for bronchoscopy. Bedside 
bronchoscopy with no mucous plug. Pt with frothy secretions, no 
DAH, no endobronchial lesions. Bedside TTE with dilated RA, LV 
collaspsible during systole. 

 
Past Medical History:
Hemorrhagic CVA in ___, s/p right craniotomy and R MCA clipping 
with residual left sided hemiplegia, s/p trach and PEG. On 
seizure prophylaxis (no Hx Seizures per patient and HCP)  
TAH-BSO ___  
Hypertension  
Hyperlipidemia  
Hx of DVT/PE  
Depression  
Anxiety  
IVC filter  
L wrist schwannoma removal (___)  
Difficult blood cross-match (requires D-, C-, S- and 
V/Vs-negative blood) 
 
Social History:
___
Family History:
Negative for any female cancers
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
==============================
Vitals: 98.1  104 121/68  36  81% on 35% ___

General- Sleepy, oriented to name, ___, ___. Able to 
count backwards from 10. Appears logical and answers 
appropriately
HEENT- Sclerae anicteric, wet mucous membranes, oropharynx clear 
 
Neck- trach with many frothy secretions, clear to yellow in 
color. 
Lungs- rhoncherous throughout. Tachypneic with accessory muscle 
use 
CV- Tachycardic, regular rate, No MRG appreciated 
Abdomen- soft, moderate distension, no tenderness to palpation, 
no , suprapubic tenderness, bowel sounds present in all 4 
quadrants, no guarding  
GU- no foley  
Ext- warm, well perfused, no edema; R knee with increased 
swelling, ballotable patella. Warm, not red or hot. Sore, not 
exiquisitely tender to touch
Neuro- ___nd RLE, follows commands. ___ LUE and 
LLE. Sustained clonus on L ankle. 
Skin: well approximated, well healing incision with small areas 
of dried scan, no erythema, tenderness to palpation, or drainage 
from incision  

PHYSICAL EXAM ON DISCHARGE:
==============================
VS: 98.4  98.4  ___  ___  100%TM
General: Pt does not appear to be in distress. Thin, cachectic 
woman with Trach/PEG in place, able to open eyes and follow 
commands. Able to answer questions by motioning with R arm, 
trying to verbalize some complaints. Per report this is how she 
has been lately.
HEENT: Sclera anicteric, MMM, oropharynx clear. PERRLA. Trach in 
place. S/p R craniotomy, no helmet in place when I examined her.
Neck: supple, JVP not elevated
Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, 
rales, rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: PEG in place. Absent bowel sounds, soft, non-tender, 
non-distended, present, no rebound tenderness or guarding, no 
organomegaly. ostomy with normal brown stool output.
Ext: 2+ edema b/l ___ to knees trace on thighs b/l. Warm, well 
perfused, 2+ pulses. R calf with DTI over posterior aspect- 
hyperpigmented, bruised appearing area.
Skin:  No lesions noted
Neuro:  Able to move right arm and leg with ___ strength, L 
hemiparesis. Unable to evaluate full CN exam, but grossly 
unchanged 
 
Pertinent Results:
LABS ON ADMISSION:
====================

___ 01:00AM BLOOD WBC-4.0 RBC-3.77* Hgb-10.3* Hct-32.0* 
MCV-85 MCH-27.3 MCHC-32.2 RDW-15.4 RDWSD-47.0* Plt ___
___ 01:00AM BLOOD Plt ___
___ 01:00AM BLOOD Glucose-90 UreaN-8 Creat-0.3* Na-147* 
K-3.0* Cl-108 HCO3-30 AnGap-12
___ 01:00AM BLOOD Albumin-3.7

Labs on discharge:
=================================
___ 06:37AM BLOOD WBC-5.8 RBC-2.95* Hgb-7.9* Hct-24.6* 
MCV-83 MCH-26.8 MCHC-32.1 RDW-15.2 RDWSD-45.6 Plt ___
___ 06:20AM BLOOD ___ PTT-36.6* ___
___ 06:20AM BLOOD Glucose-95 UreaN-9 Creat-0.4 Na-143 K-4.4 
Cl-105 HCO3-31 AnGap-11
___ 06:20AM BLOOD estGFR-Using this
___ 06:56AM BLOOD CK(CPK)-19*
___ 06:20AM BLOOD Calcium-10.9* Phos-2.9 Mg-2.1

MICRO:
Urine culture:
URINE CULTURE (Final ___: 
ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
Cefazolin interpretative criteria are based on a dosage regimen 
of
2g every 8h. 

SENSITIVITIES: MIC expressed in MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     2 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     2 S
TRIMETHOPRIM/SULFA----  =>16 R

Bronchoscopy:
GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {PSEUDOMONAS 
AERUGINOSA, PSEUDOMONAS AERUGINOSA}; Immunoflourescent test for 
Pneumocystis jirovecii (carinii)-FINAL; FUNGAL CULTURE-FINAL 
{YEAST}; ACID FAST SMEAR-FINAL; ACID FAST CULTURE-PRELIMINARY
FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

ACID FAST SMEAR (Final ___: 
NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         PREDOMINATING ORGANISM.  INTERPRET RESULTS WITH 
CAUTION. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         PREDOMINATING ORGANISM.  INTERPRET RESULTS WITH 
CAUTION. 
         ___ MORPHOLOGY. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 
      YEAST.    ~6OOO/ML. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |          KLEBSIELLA PNEUMONIAE
                             |          |   
AMPICILLIN/SULBACTAM--  =>32 R     =>32 R
CEFAZOLIN-------------  =>64 R     =>64 R
CEFEPIME--------------    16 I       16 I
CEFTAZIDIME-----------  =>64 R     =>64 R
CEFTRIAXONE-----------  =>64 R     =>64 R
CIPROFLOXACIN---------   =>4 R      =>4 R
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
NITROFURANTOIN--------   128 R      128 R
TOBRAMYCIN------------  =>16 R     =>16 R
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S

IMAGING:
==========
CTA chest and abdomen (___):
IMPRESSION: 
1. Dilated sigmoid colon, with a narrowing in the distal sigmoid 
colon 
measuring 2.6 cm.  This is improved compared to prior CT, 
previously measuring 9 mm.  No evidence of volvulus. 
2. No evidence of acute pulmonary embolism. 
3. Diffuse parenchymal opacities are new compared to prior CT on 
the ___.  This could reflect an infectious process or 
edema. 
4. A possible hypodense lesion in the pancreatic head is not as 
well 
appreciated on today's exam.  Pancreatic ductal dilation is 
unchanged. 
5. The remainder of the exam is unchanged, including extensive 
venous thrombi, a migrated IVC filter, intra and extrahepatic 
biliary duct dilation, and cholelithiasis without evidence of 
acute cholecystitis. 

ECHO (___):
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
and cavity size are normal. Due to suboptimal technical quality, 
a focal wall motion abnormality cannot be fully excluded. Left 
ventricular systolic function is hyperdynamic (EF>75%). The 
estimated cardiac index is high (>4.0L/min/m2). Right 
ventricular chamber size and free wall motion are normal. The 
ascending aorta appeared dilated but the image quality was 
limited and no aneurysm was seen on the ___ CTA of the chest. 
The aortic valve leaflets are mildly thickened (?#). There is no 
aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 
IMPRESSION: Normal left ventricular chamber size with 
hyperdynamic systolic function. Normal right ventricular chamber 
size and systolic function. Moderate pulmonary artery 
hypertension.

KUB (___):
FINDINGS:    
There are no abnormally dilated loops of small bowel.  Improved 
decompression of the sigmoid colon. There is no free 
intraperitoneal air. 
Osseous structures are unremarkable. IVC filter is intact.  
Unchanged, numerous pelvic phleboliths.  Rectal tube tip is now 
at a lower position within the sigmoid colon.   
IMPRESSION:    
Improved decompression of the sigmoid colon.   

CXR (___):
FINDINGS:   
A tracheostomy is in-situ, unchanged in position compared to the 
prior study.  The patient is somewhat rotated.  Lung volumes are 
within normal limits.  Patchy airspace opacities are noted at 
the left lung base, better appreciated on the CT chest.  No 
pleural effusion seen.  No pneumothorax seen.   
IMPRESSION:   
Patchy opacities of the left lung base better evaluated on the 
CT chest from the prior day.

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of hemorrhagic 
CVA ___ R MCA aneurysm s/p R craniotomy and clipping (___) c/b 
L hemiplegia, s/p trach and PEG on seizure prophylaxis, hx of 
DVT/PE s/p IVC filter, s/p recent TAH-BSO ___, who presented to 
OSH with abdominal pain and was found to have colonic distension 
and was transferred to ___ ICU for hypoxia. She was found to 
have sigmoid volvulus which was treated by laparoscopic sigmoid 
colectomy and colostomy (___). Her course was complicated by 
bleeding from ostomy bag, pseudomonas pneumonia, UTI, and 
findings of ovarian vein thrombosis now on warfarin for 
discharge. She was also found to be intermittently 
encephalopathic throughout the hospital course with concern for 
new intracranial process but brain imaging remained unchanged. 
Mental status improved prior to discharge. She was also found to 
be hypercalcemic with elevated PTH levels suggestive of primary 
hyperparathyroidism, and was seen by endocrine who recommended 
increased fluid flushes and switching to a different tube feed 
with less calcium. She improved mentally throughout the hospital 
stay and had good osteomy output with no bleeding by discharge. 

Active Issues:

# Bilateral ovarian vein thrombosis with history of PE/DVT: She 
was found to have bilateral ovarian vein thromboses on imaging, 
likely related to her recent TAH/BSO. IVC filter was noted to be 
malpositioned. ___ was consulted and did not feel that there was 
need for repositioning for filter. She was managed on a heparin 
drip for new ovarian vein thromboses and transitioned to 
warfarin 5 mg daily for discharge. She will follow up with her 
PCP ___ will manage her warfarin dosing. Patient 
discharged on script for enoxaparin, in case needed for bridging 
therapy

# Sigmoid volvulus s/p colectomy with colostomy: Patient was 
found to have a sigmoid volvulus on KUB. She was evaluated by GI 
who performed a flexible sigmoidoscopy with decompression and 
placed a rectal tube. She then underwent a sigmoidectomy for 
definitive management with colostomy formation. She initially 
had small amounts of bleeding from the ostomy which resolved.

# E. coli urinary tract infection: Urine culture grew E. coli, 
which was treated with cefepime. The patient also had a Urine 
culture drawn on ___ which grew Klebsiella, although at that 
point she was asymptomatic, does not have an elevated WBC count, 
and has not had other signs of ongoing infection so we feel that 
this is most likely representative of her being colonized by 
this bacteria.

# Ill-defined pancreatic mass: CT incidentally noted an 
ill-defined pancreatic mass associated with moderate 
intrahepatic and extrahepatic biliary ductal dilation and 
dilation of the pancreatic duct. This should be followed up as 
an outpatient.

# Hypoxemic respiratory failure with pseudomonas pneumonia: 
Patient underwent a bronchoscopy and BAL grew GNRs, which 
speciated to Pseudomonas. She was initially placed on broad 
spectrum antibiotics (vancomycin/cefepime/levofloxacin) but this 
was narrowed to cefepime when BAL grew pseudomonas. Antibiotics 
finished. Required ventilator for one day but eventually changed 
back to trach mask, and saturating well on discharge.

#Hyperparathyroidism/Hypercalcemia: Seen by endocrine team, who 
felt that this was likely primary hyperparathyroidism but that 
her calcium levels were not high enough to explain the 
intermittent alterations in her mental status. They recommended 
gentle increasing of flushes and low calcium diet. Her calcium 
did improve slightly before discharge. She will be seen by 
Endocrine as an outpatient.

#RLE deep tissue injury: Pt developed bruising of her right calf 
likely related to PAS stocking use initially. Wound care saw the 
patient and weight distribution of the leg was recommended.

#Anemia: Pt came in with hgb 10.3, which dropped in the 8 range 
after surgery and remained there throughout. Iron studies 
indicated Anemia of chronic disease. Lab draws during 
complicated and prolonged hospital course likely contributed. 

#Peripheral edema: She was found to have 2+ pitting edema 
throughout the hospital course, likely in the setting of low 
albumin. Trial of diuresis resulted in hypotension, so was not 
further pursued.

Chronic issues:
======================================================= 
# H/o hemorrhagic CVA in ___, s/p right craniotomy and R MCA 
clipping with residual left sided hemiplegia, s/p trach and PEG: 
She was continued on depakote and keppra for seizure 
prophylaxis. She continued to use her helmet from home 
intermittently as she does not like how it fits. 
# Hypertension: Held off on BP meds on discharge as she had 
intermittent hypotension while admitted and was up to SBP 
130's-140's on discharge.
# Hyperlipidemia: Continued Atorvastatin 20mg daily. 
# Depression/Anxiety: Continued Citalopram 20mg daily. 
#Hyperthyroidism: Continued on Methimazole

TRANSITIONAL ISSUES: 
===================== 
# Pancreatic mass: ill-defined, incidental finding on CT imaging 
- will need imaging follow up 
# Ms. ___ need her INR's checked and warfarin dosing 
adjusted by Dr. ___. Next INR check for ___
#Will give prescription for Enoxaparin in case pt is 
subtherapeutic and ___ clinic needs to bridge her back to 
therapeutic range.
#The patient's helmet should be worn at all times but she does 
not like how it fits so only wore it intermittently. Please 
consider refitting helmet for her.
#The patient was bridged to Warfarin with Lovenox. As her INR 
was therapeutic for three days prior to discharge, we held off 
on Lovenox for discharge. She will get a prescription for 
Lovenox in case her INR is subtherapeutic and needs new bridging
#Follow up with endocrine for new diagnosis of primary 
hyperparathyroidism
#Amlodipine and labetalol was discontinued due to low BP. SBP 
stable around 120s to 140s prior to discharge. Follow up with 
PCP and consider ___ if necessary. 
# CODE: Full Code
# CONTACT: ___ (daughter, ___ 
___, ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methimazole 5 mg NG QAM 
2. Citalopram 20 mg NG QAM 
3. Acidophilus (L.acidoph & ___ 
acidophilus) 1 capsule  Per PEG tube BID 
4. LeVETiracetam Oral Solution 750 mg NG BID Seizure prophylaxis 

5. Labetalol 300 mg NG TID 
6. Amlodipine 10 mg NG DAILY 
7. Atorvastatin 20 mg NG QPM 
8. LOPERamide 2 mg NG QID:PRN Diarrhea 
9. Docusate Sodium (Liquid) 100 mg PO DAILY:PRN Constipation 
10. Milk of Magnesia 30 mL NG PRN Constipation 
11. Lansoprazole Oral Disintegrating Tab 30 mg G TUBE DAILY 
12. Albuterol 0.083% Neb Soln 1 NEB IH TID 
13. Acetaminophen (Liquid) 650 mg NG Q6H:PRN Pain 
14. Guaifenesin ___ mL PO Q6H:PRN Cough 
15. Jevity 1.2 Cal (lactose-reduced food with fibr)    PEG tube 
On for 14 hr, off for 10hr 
16. Valproic Acid ___ mg PO Q8H 

 
Discharge Medications:
1. tube feed
Ensure Plus Full strength
Starting rate: 20 ml/hr; Advance rate by 20 ml q4h Goal rate: 65 
ml/hr
Cycle start: 1800 Cycle end: 800
Mix Benefiber packet with 60 cc water & stir until dissolved

2. Acetaminophen (Liquid) 650 mg NG Q6H:PRN Pain 
RX *acetaminophen 650 mg/20.3 mL 20.3 ml by mouth q6hr PRN 
Refills:*0
3. Albuterol 0.083% Neb Soln 1 NEB IH TID 
4. Citalopram 20 mg NG QAM 
5. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
RX *lansoprazole 30 mg 1 capsule(s) PEG tube daily Disp #*30 
Capsule Refills:*0
6. LeVETiracetam Oral Solution 750 mg NG BID Seizure prophylaxis 

RX *levetiracetam 500 mg/5 mL (5 mL) 7.5 mL PEG tube twice a day 
Refills:*0
7. Methimazole 5 mg NG QAM 
RX *methimazole 5 mg 1 tablet(s) PEG tube qAM Disp #*15 Tablet 
Refills:*0
8. Lidocaine 5% Patch 1 PTCH TD QPM Right knee 
9. Valproic Acid ___ mg PO Q8H 
RX *valproic acid (as sodium salt) 250 mg/5 mL 5 ml by mouth 
q8hr Refills:*0
10. Vitamin D 1000 UNIT PO DAILY 
11. Warfarin 5 mg PO DAILY16 
RX *warfarin 5 mg 1 tablet(s) by mouth q 16:00 Disp #*30 Tablet 
Refills:*1
12. Acidophilus (L.acidoph & 
___ acidophilus) 1 capsule  Per 
PEG tube BID 
13. Docusate Sodium (Liquid) 100 mg PO DAILY:PRN Constipation 
14. Guaifenesin ___ mL PO Q6H:PRN Cough 
15. Atorvastatin 20 mg NG QPM 
RX *atorvastatin 20 mg 1 tablet(s) PEG tube qPM Disp #*15 Tablet 
Refills:*0
16. LOPERamide 2 mg NG QID:PRN Diarrhea 
17. Milk of Magnesia 30 mL NG PRN Constipation 
18. OxycoDONE Liquid 5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg/5 mL 5 mg by mouth q6prn Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Sigmoid volvulus
Ovarian Vein Thrombosis
Hyperparathyroidism
Pneumonia
UTI

Secondary Diagnoses
- h/o CVA
- Hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because you had worsening abdominal 
pain and were found to have an obstructive problem with your 
intestines, which was fixed with a surgical procedure to remove 
part of your colon and create an ostomy bag. You also developed 
high calcium levels in your blood. You also were foundn to have 
clots in the veins coming from your ovaries, and need to be on 
warfarin to thin your blood for that. You were initally treated 
in the ICU and then after surgery came to the general medicine 
floor. You should follow up at all the appointments we made for 
you (below). We wish you all the best.

Sincerely,
your care team at ___
 
Followup Instructions:
___